US05455258
Methyl 2-[[4-methoxybenzenesulfonyl](benzyl)amino]propionate (2.1 g, 6.01 mmol) is dissolved in methanol (20.0 mL). To this solution is added hydroxylamine hydrochloride (0.84 g, 12.0 mmol), followed by the addition of sodium methoxide (7.0 mL of a 4.37M solution). The reaction is stirred overnight at room temperature. The reaction is worked up by first removing all the solvent, and partitioning between ethyl acetate/hexane (2/1) and saturated sodium bicarbonate. The aqueous phase is extracted well with ethyl acetate/hexane, the combined organic layers are dried (MgSO4), and the solvent is evaporated. The product is purified by silica gel chromatography (ethyl acetate) to give N-hydroxy-2-[[4-methoxybenzenesulfonyl](benzyl)amino]propionamide, m.p. 149°-151° C.

reactant | Methyl 2-[[4-methoxybenzenesulfonyl](benzyl)amino]propionate | 6.01 mmol, 2.1 g | COC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)C)CC1=CC=CC=C1 | C18H21NO5S
reactant | hydroxylamine hydrochloride | 12.0 mmol, 0.84 g | Cl.NO
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 20.0 mL | CO | CH4O
product | N-hydroxy-2-[[4-methoxybenzenesulfonyl](benzyl)amino]propionamide | ONC(C(C)N(CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C17H20N2O5S
